US04517202
A mixture of (E)-2-(3-cyclohexyl-3-hydroxyprop-1-enyl)bicyclo[3,3,0]octan-6-one (41 mg), prepared as described in Reference Example 13, and in the form of (±)-(E)-2β-(3-cyclohexyl-3α-hydroxyprop-1-enyl)bicyclo[3,3,0]octan-6-one, tert-butyldimethylchlorosilane (35 mg), and imidazole (29.5 mg) in dimethylformamide (0.25 ml) was stirred at ambient temperature for 3 hours. Water (2.5 ml) was added and the mixture was extracted with diethyl ether. The combined ethereal extracts were washed with saturated aqueous sodium chloride solution, then dried over anhydrous sodium sulphate, and concentrated under reduced pressure to give (E)-2-(3-tert-butyldimethylsilyloxy-3-cyclohexylprop-1-enyl)bicyclo[3,3,0]octan-6-one (57 mg), in the form of (±)-(E)-2β-(3α-tert-butyldimethylsilyloxy-3-cyclohexylprop-1-enyl)bicyclo[3,3,0]octan-6-one.

reactant | (E)-2-(3-cyclohexyl-3-hydroxyprop-1-enyl)bicyclo[3,3,0]octan-6-one | 41 mg | C1(CCCCC1)C(/C=C/C1C2CCC(C2CC1)=O)O | C17H26O2
reactant | tert-butyldimethylchlorosilane | 35 mg | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
reactant | imidazole | 29.5 mg | N1C=NC=C1 | C3H4N2
reactant | Water | 2.5 ml | O | H2O
solvent | dimethylformamide | 0.25 ml | CN(C=O)C | C3H7NO
product | (E)-2-(3-tert-butyldimethylsilyloxy-3-cyclohexylprop-1-enyl)bicyclo[3,3,0]octan-6-one | 57 mg | [Si](C)(C)(C(C)(C)C)OC(/C=C/C1C2CCC(C2CC1)=O)C1CCCCC1 | C23H40O2Si
